US07034045B1
Preparation of {4′-[1-Fluoro-1-methyl-2-(propane-2-sulfonylamino)-ethyl]-3-nitrobiphenyl-4-yl}-acetic Acid
To a solution of {4′-[1-fluoro-1-methyl-2-(propane-2-sulfonylamino)-ethyl]-3-nitro-biphenyl-4-yl}-acetic acid ethyl ester. (0.341 g, 0.731 mmol, prepared in example 47) in Ethanol (5.0 mL) is added a solution of 6.7% NaOH (15.0 mL) and the resulting mixture is stirred under N2 at ambient temperature for 72 h. The mixture is diluted with H2O (100 mL) and acidified with 37% HCl. Extraction with EtOAc followed by drying (MgSO4), filtration, and evaporation of the filtrate in vacuo gives the title compound.

reactant | {4′-[1-fluoro-1-methyl-2-(propane-2-sulfonylamino)-ethyl]-3-nitro-biphenyl-4-yl}-acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1)C1=CC=C(C=C1)C(CNS(=O)(=O)C(C)C)(C)F)[N+](=O)[O-])=O | C22H27FN2O6S
reactant | NaOH | 15.0 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | Ethanol | 5.0 mL | C(C)O | C2H6O
solvent | H2O | 100 mL | O | H2O
product | {4′-[1-Fluoro-1-methyl-2-(propane-2-sulfonylamino)-ethyl]-3-nitrobiphenyl-4-yl}-acetic Acid | FC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C20H23FN2O6S
